US08076491B2
1-((3,5-dimethylisoxazol-4-yl)methyl)-3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)imidazolidine-2,4-dione
Prepared as in Example 10-5 from 3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)imidazolidine-2,4-dione and 4-(chloromethyl)-3,5-dimethylisoxazole. Yield: 50%. 1NMR (CDCl3, 400 MHz): 2.19 (s, 3H), 2.27 (s, 3H), 2.43-2.42 (d, J=5.2 Hz, 6H), 3.82 (s, 2H), 4.40 (s, 2H), 5.05 (s, 2H), 7.92 (s, 1H), 8.05 (s, 1H). The title compound was shown to inhibit hT2R08 bitter receptor and had an IC50 of 0.04 μM.

reactant | 3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)imidazolidine-2,4-dione | CC1=NOC(=C1CN1N=CC(=C1)N1C(NCC1=O)=O)C | C12H13N5O3
reactant | 4-(chloromethyl)-3,5-dimethylisoxazole | ClCC=1C(=NOC1C)C | C6H8ClNO
product | 1-((3,5-dimethylisoxazol-4-yl)methyl)-3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)imidazolidine-2,4-dione | Yield: 50% | CC1=NOC(=C1CN1C(N(C(C1)=O)C=1C=NN(C1)CC=1C(=NOC1C)C)=O)C | C18H20N6O4
